* C:\Users\Public\Documents\Altium\RAD_V3_Amplfier\SPICE_SIM_RAD_V3_Amplifier\SIPM_AMP_SIM.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N001 0 36
R1 N002 N001 100k
R2 N002 N006 100k
C1 N007 N006 100n
C2 0 N002 1µ
C3 N010 N009 100n
R3 N009 N012 1k
R4 N012 N014 10k
C4 0 N012 1µ
R5 N014 N013 1k
C5 N014 0 1µ
V2 0 N013 2v
D1 N009 N006 D
V% VCC 0 3V3
V3 0 VCC- 3V3
I1 N009 N006 PULSE(10u 0 5ms 1ms 1ms 0 20ms)
X§U1 VCC VOCM VCC 0 N005 NC_01 NC_02 N011 0 VCC 0 0 N007 N007 N010 N010 LT6402-6 ;§pnba VccC)VOCM)VccA)VeeA)+OUT)+OUTFILT)-OUTFILT)-OUT)VeeB)VccB)_EN)VeeC)-INB)-INA)+INB)+INA
R6 N007 N010 68Ohm
R7 VCC VOCM 2k
R8 VOCM 0 2k
C6 VOCM 0 100n
R9 N008 N005 1k
R10 N003 N011 1k
R11 N008 VOCM 2Meg
X§U2 N008 N003 VCC 0 N004 NC_03 LTC2050 ;§pnba In+)In-)V+)V-)OUT)SHDN
R12 N004 N003 2Meg
.model D D
.lib C:\Users\henry\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 50ms 0
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\henry\AppData\Local\LTspice\lib\sym\OpAmps\LTC2050.asy)
.lib LTC.lib
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\henry\AppData\Local\LTspice\lib\sym\OpAmps\LT6402-6.asy)
.lib LTC5.lib
.backanno
.end
